US05952355
Substantially the same procedure as in Process 1 of Example 48 was repeated using 3,4,5-trimethoxybenzaldehyde (3.92 g) and pentylmagnesium bromide (2.0 M diethyl ether solution, 12 ml) to give 1-(3,4,5-trimethoxyphenyl)-1-hexanone (3.27 g).

reactant | 3,4,5-trimethoxybenzaldehyde | 3.92 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | pentylmagnesium bromide | 2.0 M, 12 ml | C(CCCC)[Mg]Br
product | 1-(3,4,5-trimethoxyphenyl)-1-hexanone | 3.27 g | COC=1C=C(C=C(C1OC)OC)C(CCCCC)=O | C15H22O4
